US09447041B2
Step E: Preparation of Ethyl 2-(7-Hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate
To a 200 liter Hastelloy reactor was added ethyl 2-(7-(benzyloxy)-1,2-dihydrocyclopenta[b]indol-3(4H)-ylidene)acetate (E/Z mixture, 12 kg), 10% Pd/C (50% wet with H2O; 1.80 kg) and ethyl acetate (108 kg). The suspension was degassed 3× with N2 and triethylamine (1.76 kg) was added. To the resulting mixture was added formic acid (3.34 kg) while maintaining the internal temperature at below 35° C. The reaction progression was followed by HPLC to monitor the complete consumption of starting material (i.e., E/Z mixture of ethyl 2-(7-(benzyloxy)-1,2-dihydrocyclopenta[b]indol-3(4H)-ylidene)acetate) and the debenzylated intermediate. After approximately 30 minutes an additional amount of formic acid (0.50 kg) was added and the combined peak area of ethyl 2-(7-(benzyloxy)-1,2-dihydrocyclopenta[b]indol-3(4H)-ylidene)acetate and the related debenzylated intermediate was determined to be <1% area by HPLC. The reactor contents were filtered through a 1.2 μm cartridge filter followed by an in-line 0.2 μm inline polishing filter. To the filtrate was added water (60 kg) and the biphasic mixture was partitioned. The organics were separated and concentrated under vacuum at approximately 60° C.±5° C. to a minimum stir volume, ethyl acetate (21.6 kg) was added and the mixture was further concentrated under vacuum to a minimum stir volume. Once again ethyl acetate (16.8 kg) was charged to the crude mixture and the resulting solution was heated to approximately 60° C. Heptanes (37.2 kg) were charged maintaining the internal temperature at 60° C. The solution was slowly cooled to approximately 0 to 5° C. and approximately 2-3 hr to facilitate crystallization. The slurry was filtered, the filter cake was reslurried in heptanes (27.12 kg) and ethyl acetate (7.08 kg). The resulting suspension was filtered and the solids dried under vacuum at approximately 40±5° C. (until the loss on drying (LOD) is <1%) to afford the title compound (6.23 kg, 70.3% yield) as a solid.

reactant | ethyl 2-(7-(benzyloxy)-1,2-dihydrocyclopenta[b]indol-3(4H)-ylidene)acetate | 12 kg | C(C1=CC=CC=C1)OC1=CC=2C3=C(NC2C=C1)C(CC3)=CC(=O)OCC | C22H21NO3
catalyst | Pd/C | 1.80 kg | [Pd] | Pd
solvent | ethyl acetate | 108 kg | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-(7-Hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 6.23 kg, 70.3% yield | OC1=CC=2C3=C(NC2C=C1)C(CC3)CC(=O)OCC | C15H17NO3
